US09278931B2
A) tert-butyl [trans-2-(4-{[(3-benzylphenyl)carbonyl]amino}phenyl)cyclopropyl]carbamate
To a solution of tert-butyl [trans-2-(4-aminophenyl)cyclopropyl]carbamate (100 mg) described in a document (J. Am. Chem. Soc., 2010, 132, 6827.) in acetonitrile (4 mL) were added 3-benzylbenzoic acid (103 mg) described in a document (J. Org. Chem. 2001, 66, 2874.), N-ethyl-N′-(3-dimethylaminopropyl)carbodiimide hydrochloride (93 mg), 1-hydroxybenzotriazole (65.3 mg) and triethylamine (140 μL). The mixture was stirred at room temperature overnight and water was added. The mixture was extracted with ethyl acetate, and the extract was washed with saturated brine and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure. The residue was recrystallized (hexane/ethyl acetate) to give the title compound (126 mg).

reactant | tert-butyl [trans-2-(4-aminophenyl)cyclopropyl]carbamate | 100 mg | NC1=CC=C(C=C1)[C@H]1[C@@H](C1)NC(OC(C)(C)C)=O | C14H20N2O2
reactant | 3-benzylbenzoic acid | 103 mg | C(C1=CC=CC=C1)C=1C=C(C(=O)O)C=CC1 | C14H12O2
reactant | N-ethyl-N′-(3-dimethylaminopropyl)carbodiimide hydrochloride | 93 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-hydroxybenzotriazole | 65.3 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
solvent | acetonitrile | 4 mL | C(C)#N | C2H3N
solvent | water | O | H2O
solvent | triethylamine | 140 μL | C(C)N(CC)CC | C6H15N
product | tert-butyl [trans-2-(4-{[(3-benzylphenyl)carbonyl]amino}phenyl)cyclopropyl]carbamate | 126 mg | C(C1=CC=CC=C1)C=1C=C(C=CC1)C(=O)NC1=CC=C(C=C1)[C@H]1[C@@H](C1)NC(OC(C)(C)C)=O | C28H30N2O3
